US08252820B2
A. 2,2-Dimethyl-pent-4-enoic acid-9-BBN
To a solution of 2,2-dimethyl-pent-4-enoic acid (500 mg, 3.0 mmol) in THF (4 mL) is added 9-BBN (0.5M, 17 mL, 3.0 mmol) at 0° C. and it is stirred at 0° C. for 2 h. The solvent is removed via vacuum to give the title compound and it is used directly in the next step.

reactant | 2,2-dimethyl-pent-4-enoic acid | 3.0 mmol, 500 mg | CC(C(=O)O)(CC=C)C | C7H12O2
reactant | 9-BBN | 3.0 mmol, 0.5M, 17 mL | B1C2CCCC1CCC2 | C8H15B
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | 2,2-Dimethyl-pent-4-enoic acid 9-BBN | CC(C(=O)O)(CC=C)C.B1C2CCCC1CCC2 | InChI=1S/C8H15B.C7H12O2/c1-3-7-5-2-6-8(4-1)9-7;1-4-5-7(2,3)6(8)9/h7-9H,1-6H2;4H,1,5H2,2-3H3,(H,8,9)
